US03998958
A solution of 2-imino-1-methylpyrrolidine (obtained from 6.91 g., 0.051 mole, hydrochloride salt) in benzene is dried over potassium carbonate and filtered. A solution of 1-naphthyl isocyanate (8.45 g., 0.05 mole) in benzene is added by filtration. The mixture is stirred for 11/2 hr. at room temperature and the precipitate separated by filtration. Recrystallization from acetone affords the product, 1-(1-methyl-2-pyrrolidinylidene)-3-(1-naphthyl)urea, m.p. 148°-149° C.

reactant | 2-imino-1-methylpyrrolidine | 0.051 mole, 6.91 g | N=C1N(CCC1)C | C5H10N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-naphthyl isocyanate | 0.05 mole, 8.45 g | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(1-methyl-2-pyrrolidinylidene)-3-(1-naphthyl)urea | CN1C(CCC1)=NC(=O)NC1=CC=CC2=CC=CC=C12 | C16H17N3O
